US06573293B2
5-[6-(3-Methoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-dimethylaminoethyl)amide
6-(3-Methoxyphenyl)-1,3-dihydroindol-2-one (30 mg, 0.13 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-dimethylaminoethyl)amide (30 mg) to give 8 mg (14%) of the title compound as a yellow-orange solid.

reactant | 6-(3-Methoxyphenyl)-1,3-dihydroindol-2-one | 0.13 mmol, 30 mg | COC=1C=C(C=CC1)C1=CC=C2CC(NC2=C1)=O | C15H13NO2
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-dimethylaminoethyl)amide | 30 mg | CN(CCNC(=O)C1=C(NC(=C1C)C=O)C)C | C12H19N3O2
product | 5-[6-(3-Methoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-dimethylaminoethyl)amide | 8 mg, 14% | CN(CCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC(=CC=C12)C1=CC(=CC=C1)OC)=O)C)C | C27H30N4O3
